* Z:\home\gabriel\Escritorio\INSTITUTO TECNOLÓGICO DE MORELIA\SEPTIMO SEMESTRE\CONTROL I\PRACTICA 2\Draft7.asc
V1 N005 0 PULSE(-1 1 0 1e-9 1e-9 {1/2*(1/F)} {1/F}) AC 1 0
R1 N006 N005 50
R2 N007 N006 3.3k tol=10
R3 N007 N008 1K tol=10
R4 N007 0 2.2k tol=10
C1 N008 0 1µ
V2 N001 0 PULSE(-1 1 0 1e-9 1e-9 {1/2*(1/F)} {1/F}) AC 1 0
R5 N002 N001 50
R6 N003 N002 3.3k tol=10
R7 N003 N004 1K tol=10
R8 N003 0 2.2k tol=10
L1 N004 0 10m
.ac dec 10 10 10e6
;tran 0 {n*(1/F)} 0 1e-6
.param F=10k n=3
.backanno
.end
